US05962458
Diethyl azodicarboxylate (244 mg, 1.4 mmol) was added dropwise to a suspension of 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride (261 mg, 0.7 mmol), (prepared as described for the starting material in Example 22), triphenylphosphine (367 mg, 1.4 mmol) and 2-(1,2,4-triazol-1-yl)ethanol (95 mg, 0.84 mmol), (Ann. Pharm. Fr. 1977, 35, 503-508), in methylene chloride (5 ml). The mixture was stirred for 1 hour at ambient temperature and further triphenylphosphine (184 mg, 0.7 mmol), 2-(1,2,4-triazol-1-yl)ethanol (63 mg, 0.56 mmol) and diethyl azodicarboxylate (122 mg, 0.7 mmol) were added. The mixture was stirred for a further 2.5 hours and the solvent was removed by evaporation. The residue was dissolved in methanol (5 ml) and 2M aqueous sodium hydroxide solution (2 ml) was added. The mixture was stirred for 20 minutes and the mixture was partitioned between ether and water. The aqueous layer was acidified to pH7 with 2M hydrochloric acid and the resulting precipitate was collected by filtration, washed with water, and dried under vacuum. The resulting solid was dissolved in methylene chloride/methanol and a 5M solution of hydrogen chloride in isopropanol (0.5 ml) was added. The volatiles were removed by evaporation, the solid was resuspended in ether, collected by filtration, washed with ether and dried under vacuum to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(2-(1,2,4-triazol-1-yl)ethoxy)quinazoline hydrochloride (180 mg, 56%).

reactant | Diethyl azodicarboxylate | 1.4 mmol, 244 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride | 0.7 mmol, 261 mg | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C(C(=C1)C)OC(=O)OC
reactant | triphenylphosphine | 1.4 mmol, 367 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(1,2,4-triazol-1-yl)ethanol | 0.84 mmol, 95 mg | N1(N=CN=C1)CCO | C4H7N3O
reactant | triphenylphosphine | 0.7 mmol, 184 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(1,2,4-triazol-1-yl)ethanol | 0.56 mmol, 63 mg | N1(N=CN=C1)CCO | C4H7N3O
reactant | diethyl azodicarboxylate | 0.7 mmol, 122 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(2-(1,2,4-triazol-1-yl)ethoxy)quinazoline hydrochloride | 180 mg, 56% | Cl.FC1=C(NC2=NC=NC3=CC(=CC=C23)OCCN2N=CN=C2)C=C(C(=C1)C)O | InChI=1S/C19H17FN6O2.ClH/c1-12-6-15(20)17(8-18(12)27)25-19-14-3-2-13(7-16(14)22-10-23-19)28-5-4-26-11-21-9-24-26;/h2-3,6-11,27H,4-5H2,1H3,(H,22,23,25);1H
